US08648066B2
1,1-Dimethylethyl 5-bromo-6-fluoro-2-methyl-1H-benzimidazole-1-carboxylate.
Synthesized according to the method of reagent preparation 19 using 4-bromo-5-fluorobenzene-1,2-diamine and triethyl orthoacetate in step 2 and BOC protection with di-tert-butyl dicarbonate in step 3. MS (EI) for C13H14BrFN2O2: 271, 273 (M-Boc, Br isotope pattern).

reactant | 4-bromo-5-fluorobenzene-1,2-diamine | BrC=1C=C(C(=CC1F)N)N | C6H6BrFN2
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 1,1-Dimethylethyl 5-bromo-6-fluoro-2-methyl-1H-benzimidazole-1-carboxylate | BrC1=CC2=C(N(C(=N2)C)C(=O)OC(C)(C)C)C=C1F | C13H14BrFN2O2
